US09078444B2
To 2-Methyl-4-[(E)-4,4,4-trifluoro-3-(3,4,5-trichloro-phenyl)-but-2-enoyl]-benzoic acid tert-butyl ester (1.29 g) was added thioacetic acid (6 eq.) and triethylamine (12 μL). The solution was stirred under argon at room temperature for 24 hours. More thioacetic acid (1 mL) and triethylamine (1 drop) were added and the solution was stirred under argon at room temperature for 72 hours. To this mixture was added a minimum of dichloromethane and then isolute. The suspension was evaporated under vacuo. The residue was purified by chromatography on silica gel (eluent: cyclohexane/dichloromethane) to give 2-Methyl-4-[4,4,4-trifluoro-3-mercapto-3-(3,4,5-trichloro-phenyl)-butyryl]-benzoic acid tert-butyl ester (573 mg).

reactant | 2-Methyl-4-[(E)-4,4,4-trifluoro-3-(3,4,5-trichloro-phenyl)-but-2-enoyl]-benzoic acid tert-butyl ester | 1.29 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=C(C(=C1)Cl)Cl)Cl)=O)C)=O | C22H18Cl3F3O3
reactant | thioacetic acid | 6 eq. | C(C)(=S)O | C2H4OS
reactant | triethylamine | 12 μL | C(C)N(CC)CC | C6H15N
reactant | thioacetic acid | 1 mL | C(C)(=S)O | C2H4OS
catalyst | triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Methyl-4-[4,4,4-trifluoro-3-mercapto-3-(3,4,5-trichloro-phenyl)-butyryl]-benzoic acid tert-butyl ester | 573 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(CC(C(F)(F)F)(C1=CC(=C(C(=C1)Cl)Cl)Cl)S)=O)C)=O | C22H20Cl3F3O3S
